US07109234B2
Stage 3: 2-(S)-Methyl-3-(2,3-dimethoxyphenylthio)-propan-1-ol (XXIb)
0.43 g (0.0019 mol) of 2-(S)-methyl-3-(2-hydroxy-3-methoxyphenylthio)propan-1-ol (XXg), 10 ml of acetone and 0.26 g (0.0019 mol) of potassium carbonate are introduced into a round-bottomed flask kept under an inert atmosphere. After 15 minutes, 0.12 ml (0.0019 mol) of methyl iodide is introduced and the mixture is heated at 60° C. for 8 hours. The mixture is concentrated under reduced pressure. The residue is taken up in water and the aqueous phase is extracted with dichloromethane. The combined organic phases are dried over magnesium sulfate, filtered and concentrated. The residue obtained is used without additional purification in the following stage.

reactant | 2-(S)-methyl-3-(2-hydroxy-3-methoxyphenylthio)propan-1-ol | 0.0019 mol, 0.43 g | C[C@@H](CO)CSC1=C(C(=CC=C1)OC)O | C11H16O3S
reactant | potassium carbonate | 0.0019 mol, 0.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.0019 mol, 0.12 ml | CI | CH3I
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-(S)-Methyl-3-(2,3-dimethoxyphenylthio)-propan-1-ol | C[C@@H](CO)CSC1=C(C(=CC=C1)OC)OC | C12H18O3S
